US07538233B2
4-(4-Amino-butoxy)-5-chloro-1-benzopyran-2-one Hydrochloric acid salt
Is prepared using the procedure for 4-(3-amino-propoxy)-5-chloro-1-benzopyran-2-one from [3-(5-chloro-2-oxo-2H-1-benzopyran-4-yloxy)-butyl]-carbamic acid tert-butyl ester to afford the title compound as the hydrochloric acid salt. 1H NMR (DMSO-d6, 300 MHz) δ 7.86 (3H, br s), 7.61 (1H, t, J=8.25 Hz), 7.42 (2H, t, J=9.5, 8.75 Hz), 5.96 (1H, s), 4.23 (2H, t, J=5.75 Hz), 2.85 (2H, m), 1.83 (4H, m); MS (ESI, Pos.) calcd for C13H14ClNO3 m/z [M+H]=268.1, found 268.1.

reactant | 4-(3-amino-propoxy)-5-chloro-1-benzopyran-2-one | NCCCOC1=CC(OC2=C1C(=CC=C2)Cl)=O | C12H12ClNO3
reactant | [3-(5-chloro-2-oxo-2H-1-benzopyran-4-yloxy)-butyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCC(C)OC1=CC(OC2=C1C(=CC=C2)Cl)=O)=O | C18H22ClNO5
product | 4-(4-Amino-butoxy)-5-chloro-1-benzopyran-2-one Hydrochloric acid salt | Cl.NCCCCOC1=CC(OC2=C1C(=CC=C2)Cl)=O | InChI=1S/C13H14ClNO3.ClH/c14-9-4-3-5-10-13(9)11(8-12(16)18-10)17-7-2-1-6-15;/h3-5,8H,1-2,6-7,15H2;1H
